US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}cyclohexanecarboxamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (13 mg, 28 μmol) was dissolved in abs. pyridine (0.65 ml). At room temperature, cyclohexanecarbonyl chloride (8.3 mg, 57 μmol, 2 eq.) was added. After 12 h, analysis of the reaction by HPLC showed substantial conversion. The reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Kromasil C18 column, 20×50 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (12.5 mg, 83% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 28 μmol, 13 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | cyclohexanecarbonyl chloride | 57 μmol, 8.3 mg, 2 eq. | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 0.65 ml | N1=CC=CC=C1 | C5H5N
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}cyclohexanecarboxamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(=O)C2CCCCC2)C2=CC(=CC=C2)C(F)(F)F)C | C28H24F3N7O
